US09284323B2
To a dried round bottom flask was added ethyl 2,2-difluoroacetate (25 g, 0.20 mol), benzyl alcohol (62.6 mL, 0.60 mol) and boron trifluoride etherate (2.5 mL, 0.02 mmol) under nitrogen atmosphere. The reaction mixture was stirred at 75° C. overnight. The mixture was quenched with saturated aqueous NaHCO3, and then diluted with EtOAc. The organic phase was washed with brine, dried over Na2SO4, filtered and concentrated and purified by flash column chromatography (silica gel, 0 to 10% ethyl acetate/hexanes) to give benzyl 2,2-difluoroacetate. 1H-NMR: 400 MHz, (CDCl3) δ 7.39-7.29 (m, 4H), 5.93 (t, J=52.8 Hz, 1H), 5.31 (s, 2H).

reactant | ethyl 2,2-difluoroacetate | 0.20 mol, 25 g | FC(C(=O)OCC)F | C4H6F2O2
reactant | benzyl alcohol | 0.60 mol, 62.6 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | boron trifluoride etherate | 0.02 mmol, 2.5 mL | B(F)(F)F.CCOCC
product | benzyl 2,2-difluoroacetate | FC(C(=O)OCC1=CC=CC=C1)F | C9H8F2O2
